US09359300B2
Step D: Preparation of 2′-acetyl-3-chloro-4-((4-methoxybenzyl)oxy)-5′,6-dimethyl-2H-[1,4′-bipyridin]-2-one
To a solution of 2′-acetyl-4-((4-methoxybenzyl)oxy)-5′,6-dimethyl-2H-[1,4′-bipyridin]-2-one of part C (689 mg, 1.82 mmol) in 2-propanol (15 mL) was added N-chlorosuccinimide (266 mg, 2.00 mmol) and 3 drops of dichloroacetic acid. The slurry was heated at 60° C. for 3 hours. The solution was cooled using an ice bath and the resulting white solid was collected by vacuum filtration. The filtrate was partitioned between ethyl acetate and water. The organic layer was washed with water and brine and dried over magnesium sulfate. The solution was concentrated in vacuo and purified using normal phase chromatography (ethyl acetate/heptane) and the desired product was combined with material obtained via filtration (568 mg): MS (M+H) 414.

reactant | 2′-acetyl-4-((4-methoxybenzyl)oxy)-5′,6-dimethyl-2H-[1,4′-bipyridin]-2-one | C(C)(=O)C1=NC=C(C(=C1)N1C(C=C(C=C1C)OCC1=CC=C(C=C1)OC)=O)C | C22H22N2O4
reactant | N-chlorosuccinimide | 2.00 mmol, 266 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | 2-propanol | 15 mL | CC(C)O | C3H8O
catalyst | dichloroacetic acid | 3 drops | ClC(C(=O)O)Cl | C2H2Cl2O2
product | 2′-acetyl-3-chloro-4-((4-methoxybenzyl)oxy)-5′,6-dimethyl-2H-[1,4′-bipyridin]-2-one | C(C)(=O)C1=NC=C(C(=C1)N1C(C(=C(C=C1C)OCC1=CC=C(C=C1)OC)Cl)=O)C | C22H21ClN2O4
